US08729074B2
N-(2-Chloro-5-(6-chloroimidazo[1,2-b]pyridazin-3-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide
To a 10-mL, reaction vial was added 3-bromo-6-chloroimidazo[1,2-b]pyridazine (0.100 g, 0.43 mmol, Combi-Blocks, San Diego, Calif.), N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide (0.213 g, 0.52 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium, complex with dichloromethane (24 mg, 0.032 mmol), sodium carbonate (0.137 g, 1.29 mmol), dioxane (2 mL) and water (1 mL). The vial was sealed and purged with nitrogen for several minutes. The reaction mixture was stirred at 100° C. for 1 h and then allowed to cool to room temperature. The organic phase was taken and the solvents eliminated under vacuum. The crude reaction mixture was purified first by silica gel chromatography (1 to 3% MeOH/CH2Cl2) followed by preparative HPLC (30-90% ACN 0.1% TFA/water 0.1% TFA) and free based by treatment with a sat aqueous solution of sodium bicarbonate and extraction with dichloromethane (3×). The combined organics were dried over Na2SO4, filtered and the solvents were eliminated under vacuum. The title compound was obtained as a white solid. MS (ESI positive ion) m/z: 438.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.43 (t, J=8.7 Hz, 2H) 7.52 (d, J=9.6 Hz, 1H) 7.86-7.94 (m, 2H) 8.36 (d, J=9.4 Hz, 1H) 8.49 (s, 1H) 8.57 (d, J=1.8 Hz, 1H) 8.89 (s, 1H) 10.52 (s, 1H).

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | 0.43 mmol, 0.100 g | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide | 0.52 mmol, 0.213 g | ClC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)F)B1OC(C(O1)(C)C)(C)C | C17H19BClFN2O4S
reactant | dichloromethane | 0.032 mmol, 24 mg | ClCCl | CH2Cl2
reactant | sodium carbonate | 1.29 mmol, 0.137 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 1 mL | O | H2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(2-Chloro-5-(6-chloroimidazo[1,2-b]pyridazin-3-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide | ClC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)F)C1=CN=C2N1N=C(C=C2)Cl | C17H10Cl2FN5O2S
